US05534529
21(i) (1-Phenylcylopentyl)methanol
A solution of 1.15 g (6.04 mmol) of (1-phenylcyclopentyl)carboxylic acid in 10 ml of tetrahydrofuran was added dropwise over a period of 20 minutes to a suspension of 344 mg (9.06 mmol) of lithium aluminum hydride in 20 ml of tetrahydrofuran, whilst ice-cooling, and the resulting mixture was stirred for 30 minutes at 60° C. At the end of this time, the reaction mixture was again ice-cooled, and then 0.3 ml of water, 10 ml of a 2N aqueous solution of sodium hydroxide and 1 ml of water were added, in that order, and the resulting mixture was diluted with diethyl ether. The white gel material which appeared was filtered off, and then the filtrate was washed with water, with a saturated aqueous solution of sodium hydrogen carbonate and with a saturated aqueous solution of sodium chloride, in that order. The organic phase was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through 50 g of silica gel, using methylene chloride as the eluent, to give 1.06 g (yield 99%) of the title compound as colorless crystals.

reactant | (1-phenylcyclopentyl)carboxylic acid | 6.04 mmol, 1.15 g | C1(=CC=CC=C1)C1(CCCC1)C(=O)O | C12H14O2
reactant | lithium aluminum hydride | 9.06 mmol, 344 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.3 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1-Phenylcylopentyl)methanol | 1.06 g, yield 99% | C1(=CC=CC=C1)C1(CCCC1)CO | C12H16O
